US06693123B2
[4-(3-Pyridyloxymethyl)-5-iodo-2-(2-methylphenyl)benzoyl Methionine
The desired compound was prepared by saponification of 4-(3-pyridyloxymethyl)-5-iodo-2-(2-methylphenyl)benzoic acid methyl ester, prepared as in Example 219G, followed by coupling with methionine methyl ester hydrochloride and saponification of the methyl ester as described above. 1H NMR (300 MHz, DMSO-d6) δ 12.68 (1H, bs), 8.45 (1H, d, J=9 Hz), 8.37 (1H, d, J=3 Hz), 8.20 (1H, d, J=4 Hz), 7.93 (1H, s), 7.48 (1H, m), 7.37 (2H, m), 7.30-7.00 (4H, m), 5.20 (2H, s), 4.22 (1H, m), 2.30-2.00 (5H, m), 1.96 (3H, s), 1.80 (2H, m). MS m/e (DCI, NH3) m/e 577 (M+H)+. Anal calcd for C25H25IN2O4S: C, 51.85; H, 4.40; N, 4.84. Found: C, 51.91; H, 4.47; N, 4.69.

reactant | 4-(3-pyridyloxymethyl)-5-iodo-2-(2-methylphenyl)benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)I)COC=1C=NC=CC1)C1=C(C=CC=C1)C)=O | C21H18INO3
reactant | methionine methyl ester hydrochloride | Cl.COC([C@@H](N)CCSC)=O
reactant | NH3 | N | H3N
product | 4-(3-Pyridyloxymethyl)-5-iodo-2-(2-methylphenyl)benzoyl Methionine | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1I)C1=C(C=CC=C1)C | C25H25IN2O4S
